US06495564B1
4E. 6-(4-Chloro-benzoyl)-1-methyl-4-(3-vinyl-phenyl)-1H-quinolin-2-one
To a solution of 1,4-bis(diphenylphosphine)butane (120 mg, 0.28 mMol) in toluene (15 mL) was added dichlorobis(benzonitrile)palladium(II) (108 mg, 0.28 mMol) under an atmosphere of dry N2. The reaction mixture was stirred at ambient temperature for 45 minutes after which time the solution was diluted with toluene (85 mL). To this solution was added 6-(4-chloro-benzoyl)-4-(3-iodo-phenyl)-1-methyl-1H-quinolin-2-one (14.0 g, 28.0 mMol) and tributyl(vinyl)tin (9.1 mL, 32.9 mMol). The reaction was heated to reflux and stirred at this temperature for 1 hour. The reaction mixture was concentrated under vacuum and chromatographed on flash silica gel eluting DCM until the tin impurities had eluted. The product was eluted off with DCM/MeOH (99:1) to give 9.61 g of the titled compound.

reactant | 6-(4-chloro-benzoyl)-4-(3-iodo-phenyl)-1-methyl-1H-quinolin-2-one | 28.0 mMol, 14.0 g | ClC1=CC=C(C(=O)C=2C=C3C(=CC(N(C3=CC2)C)=O)C2=CC(=CC=C2)I)C=C1 | C23H15ClINO2
reactant | tributyl(vinyl)tin | 32.9 mMol, 9.1 mL | C(CCC)[Sn](C=C)(CCCC)CCCC
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 85 mL | C1(=CC=CC=C1)C | C7H8
catalyst | dichlorobis(benzonitrile)palladium(II) | 0.28 mMol, 108 mg | C1=CC=C(C=C1)C#N.C1=CC=C(C=C1)C#N.Cl[Pd]Cl
catalyst | 1,4-bis(diphenylphosphine)butane | 0.28 mMol, 120 mg | C1=CC=C(C=C1)P(CCCCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4 | C28H28P2
product | 6-(4-Chloro-benzoyl)-1-methyl-4-(3-vinyl-phenyl)-1H-quinolin-2-one | 9.61 g | ClC1=CC=C(C(=O)C=2C=C3C(=CC(N(C3=CC2)C)=O)C2=CC(=CC=C2)C=C)C=C1 | C25H18ClNO2
